US04665075
A mixture of 4.11 parts of 3-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl]-6-hydroxy-2,4(1H,3H)-quinazolinedione and 10 parts of decanoic acid anhydride with ethyl hydrogen carbonate was stirred for 3 hours at 120° C. Stirring was continued overnight at 100° C. After cooling, water was added and the whole was treated with ammonia. The product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 2-propanol. The product was filtered off and dried, yielding 2.8 parts (90%) of 3-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl]-1,2,3,4-tetrahydro-2,4-dioxo-6-quinazolinyl decanoate; mp. 169.0° C. (23).

reactant | 3-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl]-6-hydroxy-2,4(1H,3H)-quinazolinedione | FC1=CC=C(C(=O)C2CCN(CC2)CCN2C(NC3=CC=C(C=C3C2=O)O)=O)C=C1 | C22H22FN3O4
reactant | decanoic acid anhydride | C(CCCCCCCCC)(=O)OC(CCCCCCCCC)=O | C20H38O3
reactant | ethyl hydrogen carbonate | C(OCC)(O)=O | C3H6O3
reactant | ammonia | N | H3N
solvent | water | O | H2O
product | 3-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl]-1,2,3,4-tetrahydro-2,4-dioxo-6-quinazolinyl decanoate | 90% | C(CCCCCCCCC)(=O)OC=1C=C2C(N(C(NC2=CC1)=O)CCN1CCC(CC1)C(C1=CC=C(C=C1)F)=O)=O | C32H40FN3O5
